US08304419B2
Step E: 2-amino-4-bromo-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide
A solution of 2-azido-4-bromo-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (0.030 g, 0.043 mmol) and catalytic palladium on Ca2CO3 (poisoned with lead) in THF (1 mL) was stirred under atmospheric hydrogen pressure overnight. The reaction mixture was filtered through celite and evaporated to give the title compound (0.029 mg, quant.) as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.43 (dd, J=8.47, 1.42 Hz, 1H) 7.31-7.37 (m, 1H) 7.21-7.26 (m, 1H) 7.11-7.17 (m, 1H) 7.06 (t, J=6.00 Hz, 1H) 7.01 (s, 1H) 5.69 (s, 2H) 4.85 (br. s., 2H) 4.63 (d, J=6.04 Hz, 2H) 3.59-3.68 (m, 2H) 0.86-0.94 (m, 2H) −0.03 (s, 9H).

reactant | 2-azido-4-bromo-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.043 mmol, 0.030 g | N(=[N+]=[N-])C=1N(C(=C(N1)Br)C(=O)NCC1=C(C(=C(C=C1)Br)OC1=CC(=CC(=C1)C#N)Cl)F)COCC[Si](C)(C)C | C24H23Br2ClFN7O3Si
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | palladium | [Pd] | Pd
product | 2-amino-4-bromo-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.029 mg | NC=1N(C(=C(N1)Br)C(=O)NCC1=C(C(=C(C=C1)Br)OC1=CC(=CC(=C1)C#N)Cl)F)COCC[Si](C)(C)C | C24H25Br2ClFN5O3Si
